US05252601
Optional Step d2 : N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-valine
Dissolve N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-valine, benzyl ester (256 mg, 0.547 mmol) in dimethylsulfide (3 mL) and add trifluoromethanesulfonic acid (0.2 mL). Stir at room temperature under an argon atmosphere for 6 hours. Dilute with water and extract into ethyl ether. Wash with water, then brine and dry (MgSO4). Evaporate the solvent in vacuo to give the title compound.

reactant | N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-valine, benzyl ester | 0.547 mmol, 256 mg | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C28H37NO3S
reactant | trifluoromethanesulfonic acid | 0.2 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dimethylsulfide | 3 mL | CSC | C2H6S
solvent | water | O | H2O
product | N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-valine | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](C(C)C)C(=O)O | C21H31NO3S
